US05672616
a) Methyl N-benzylpyrrol-2-ylglyoxylate
A suspension of 10 g (65 mmol) of methyl pyrrol-2-ylglyoxylate in 100 ml of ether is added to a solution of 1.7 g (6.5 mmol) of 18-crown-6 with 7.3 g (65 mmol) of potassium tert-butylate in 100 ml of ether, stirring is carried out for 30 minutes and 11.1 g (65 mmol) of benzyl bromide in 50 ml of ether are then added dropwise. Stirring is carried out overnight at room temperature, the mixture is poured onto water and extracted with ether and the organic phase is dried and evaporated down. Chromatography over silica gel with hexane/ethyl acetate gives 6.7 g (42%) of the title compound as a reddish brown oi.

reactant | methyl pyrrol-2-ylglyoxylate | 65 mmol, 10 g | N1C(=CC=C1)C(C(=O)OC)=O | C7H7NO3
reactant | 18-crown-6 | 6.5 mmol, 1.7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tert-butylate | 65 mmol, 7.3 g | CC(C)(C)[O-].[K+]
reactant | benzyl bromide | 65 mmol, 11.1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | Methyl N-benzylpyrrol-2-ylglyoxylate | 6.7 g, 42% | C(C1=CC=CC=C1)N1C(=CC=C1)C(C(=O)OC)=O | C14H13NO3
